US05736548
To a solution of 1-cyclopentyl-3-ethyl-6-(2-methoxyphenyl)-pyrazolo[3,4-d]pyrimidin-4-one (0.5 g, 1.5 mmol) in DMF (10 ml) was added NaH (0.15 g, 3.75 mmol, 60% NaH in mineral oil). The reaction mixture was stirred for 20 minutes, then propanethiol (0.228 g, 3.0 mmol) was added and the mixture was stirred at room temperature for 4 hours, then at 110° C. for 9 hours. The reaction mixture was stripped to dryness and then water (15 ml) followed by acetic acid (1 ml) were added. A precipitate formed which was collected by filtration, washed with water and recrystallized by DARCO® treatment from ethyl acetate to afford 0.28 g (58%) of 1-cyclopentyl-3-ethyl-6-(2-hydroxyphenyl)pyrazolo[3,4-d]pyrimidin-4-one, m.p. 272°-273° C., as white fibrous needles.

reactant | 1-cyclopentyl-3-ethyl-6-(2-methoxyphenyl)-pyrazolo[3,4-d]pyrimidin-4-one | 1.5 mmol, 0.5 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=C(C=CC=C2)OC)CC | C19H22N4O2
reactant | NaH | 3.75 mmol, 0.15 g | [H-].[Na+]
reactant | propanethiol | 3.0 mmol, 0.228 g | C(CC)S | C3H8S
reactant | water | 15 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 1-cyclopentyl-3-ethyl-6-(2-hydroxyphenyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.28 g, 58% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=C(C=CC=C2)O)CC | C18H20N4O2
